US07622492B2
Triethylamine (21.3 mL, 153 mmol) was added in one portion to a cooled (˜0° C.) mixture of 2-chloro-4-fluorophenylhydrazine hydrochloride (10 g, 50.8 mmol) and methanol (100 mL). Di-tert-butyl dicarbonate (12.2 g, 55.9 mmol) was added and the reaction mixture was stirred at 0° C. for 5 min, at 75° C. (oil-bath temperature) for 7 h, and then at room temperature overnight. The solvent was evaporated and ethyl acetate (300 mL) was added. The solution was washed with water (100 mL) and brine (100 mL), dried (magnesium sulfate), filtered, and evaporated. The residue was taken up in 5% ethyl acetate/hexeanes. The glass vessel was scratched and the mixture was stored in the freezer. The solid was filtered off and washed with hexane to give N′-(2-chloro-4-fluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester (9.88 g, 75%).

reactant | Triethylamine | 153 mmol, 21.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-fluorophenylhydrazine hydrochloride | 50.8 mmol, 10 g | Cl.ClC1=C(C=CC(=C1)F)NN
reactant | Di-tert-butyl dicarbonate | 55.9 mmol, 12.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
product | N′-(2-chloro-4-fluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 9.88 g, 75% | C(C)(C)(C)OC(=O)NNC1=C(C=C(C=C1)F)Cl | C11H14ClFN2O2
